US07244730B2
(Step 5) 1-(3-Amino-5-bromo-2-methoxyphenyl)-1-ethanone
Iron (15 g) was added to a mixture of the 1-(5-bromo-2-methoxy-3-nitrophenyl)-1-ethanone (16.2 g), concentrated hydrochloric acid (20 mL) and methanol (60 mL) at room temperature. After stirring the mixture at 60° C. for 1 hour, it was neutralized with saturated aqueous sodium hydrogencarbonate and extraction was performed with ethyl acetate. The organic layer was washed with brine and then dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (12.8 g) as a yellow oil.

reactant | 1-(5-bromo-2-methoxy-3-nitrophenyl)-1-ethanone | 16.2 g | BrC=1C=C(C(=C(C1)C(C)=O)OC)[N+](=O)[O-] | C9H8BrNO4
reactant | hydrochloric acid | 20 mL | Cl | ClH
catalyst | Iron | 15 g | [Fe] | Fe
solvent | methanol | 60 mL | CO | CH4O
product | 1-(3-Amino-5-bromo-2-methoxyphenyl)-1-ethanone | 12.8 g | NC=1C(=C(C=C(C1)Br)C(C)=O)OC | C9H10BrNO2
